US06420142B1
12.6 g of citric acid monohydrate are dissolved in 600 ml of completely deionized water and adjusted to a pH of 6.6 with 40 g of 32% aqueous sodium hydroxide solution. 10.0 g of rutin and 1.0 g of naringinase are subsequently introduced under a nitrogen atmosphere with stirring (200 revolutions/minute). After stirring at 36° C. for about 24 hours, isoquercetin and rutin are present in the reaction mixture in a ratio of about 2:1. The reaction mixture is stirred at 36° C. for a further 7 h and at 40° C. for 22 h and then cooled to 15° C. After customary work-up, rhamnose and 7.25 g of yellow crystals are obtained. The analysis of the yellow crystals by means of HPLC results in the following composition:

reactant | citric acid monohydrate | 12.6 g | O.C(CC(O)(C(=O)O)CC(=O)O)(=O)O
reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | rutin | 10.0 g | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@@H](O2)OC3=C(OC=4C=C(C=C(C4C3=O)O)O)C=5C=CC(=C(C5)O)O)O)O)O)O)O)O | C27H30O16
reactant | isoquercetin | C1=CC(=C(C=C1C2=C(C(=O)C=3C(=CC(=CC3O2)O)O)O[C@H]4[C@@H]([C@H]([C@@H]([C@H](O4)CO)O)O)O)O)O | C21H20O12
solvent | water | O | H2O
product | rhamnose | O=C[C@H](O)[C@H](O)[C@@H](O)[C@@H](O)C | C6H12O5
